US03961062
f. 3-Chloro-1-(imidazolyl)-4-phenylisoquinoline
2.74 g (10 moles) of 1,3-dichloro-4-phenylisoquinoline, 1.02 g (15 mmoles) of imidazole and 2.7 g (15 mmoles) of tri-n-butylamine were heated for 18 hours in 5 ml of dioxane under reflux. Working was carried out as described under 1c.

reactant | 1,3-dichloro-4-phenylisoquinoline | 10 moles, 2.74 g | ClC1=NC(=C(C2=CC=CC=C12)C1=CC=CC=C1)Cl | C15H9Cl2N
reactant | imidazole | 15 mmoles, 1.02 g | N1C=NC=C1 | C3H4N2
reactant | tri-n-butylamine | 15 mmoles, 2.7 g | C(CCC)N(CCCC)CCCC | C12H27N
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 3-Chloro-1-(imidazolyl)-4-phenylisoquinoline | ClC=1N=C(C2=CC=CC=C2C1C1=CC=CC=C1)C=1NC=CN1 | C18H12ClN3
